US06355803B1
Synthesis of N-[4-(1,3-dioxolyl)phenyl]isatin
Isatin (1.88 g, 0.0128 mol) in anhydrous DMF (100 mL) was cooled in an ice-bath under nitrogen and treated with sodium hydride (0.3 g, 1 equivalent). The reaction was warmed to room temperature and stirred for 1 hour. It was then treated with 2-(4-bromophenyl)-1,3-dioxalane (2.83 g, 0.0124 mol) followed by CuI (4.71 g, 2 equivalents). This suspension was heated in an oil-bath at 135° C. under nitrogen for 16 hours. It was then cooled to room temperature and diluted with an equal volume of chloroform. The resulting suspension was filtered and the filtrate was concentrated under reduced pressure. The residue was suspended in xylenes (100 mL) and evaporated to dryness. A thick, viscous oil was recovered which was used as such for the next reaction. TLC (5% methanol in chloroform) showed clean conversion, Rf (product)=0.91.

reactant | Isatin | 0.0128 mol, 1.88 g | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | sodium hydride | 0.3 g, 1 equivalent | [H-].[Na+]
reactant | methanol | CO | CH4O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | CuI | 4.71 g, 2 equivalents | [Cu]I
product | N-[4-(1,3-dioxolyl)phenyl]isatin | O1C(OC=C1)C1=CC=C(C=C1)N1C(=O)C(=O)C2=CC=CC=C12 | C17H11NO4
